US05488055
A mixture of 2-iodobenzoic acid (14.88 g, 0.06 mol), 1-ethyl-3-methyl-5-aminopyrazole (7.5 g, 0.06 mol), DMF (50 ml), Cu(OAc)2.H2O (0.5 g) and potassium carbonate (8.3 g, 0.06 mol) was refluxed for 20 hours. The reaction mixture was cooled to room temperature, poured into ice-water and neutralized with acetic acid. A solid formed which was collected by filtration, washed with water and dried to give 7.1 g (98%) of N- (1-ethyl-3-methylpyrazol-5-yl) anthranilic acid.

reactant | 2-iodobenzoic acid | 0.06 mol, 14.88 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | 1-ethyl-3-methyl-5-aminopyrazole | 0.06 mol, 7.5 g | C(C)N1N=C(C=C1N)C | C6H11N3
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 0.06 mol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Cu(OAc)2.H2O | 0.5 g | CC(=O)[O-].CC(=O)[O-].[Cu+2].O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N- (1-ethyl-3-methylpyrazol-5-yl) anthranilic acid | 7.1 g, 98% | C(C)N1N=C(C=C1NC=1C(C(=O)O)=CC=CC1)C | C13H15N3O2
